US09216968B2
Methyl 5-amino-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-indazole-7-carboxylate
To a solution of methyl 5-{[(benzyloxy)carbonyl]amino}-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-indazole-7-carboxylate (364 mg) in MeOH (10 mL) was added 5% palladium on carbon (55 mg), and the reaction mixture was stirred overnight under hydrogen atmosphere at an ordinary pressure. The reaction mixture was filtered off on celite and washed with MeOH. The mother liquor was concentrated under reduced pressure to obtain the titled compound (234 mg) as green powder.

reactant | methyl 5-{[(benzyloxy)carbonyl]amino}-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-indazole-7-carboxylate | 364 mg | C(C1=CC=CC=C1)OC(=O)NC=1C=C2C=NN(C2=C(C1)C(=O)OC)COCC[Si](C)(C)C | C23H29N3O5Si
solvent | MeOH | 10 mL | CO | CH4O
catalyst | palladium on carbon | 55 mg | [Pd] | Pd
product | Methyl 5-amino-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-indazole-7-carboxylate | 234 mg | NC=1C=C2C=NN(C2=C(C1)C(=O)OC)COCC[Si](C)(C)C | C15H23N3O3Si
